US09278981B2
Stage 117.2 4-Bromo-3-iodo-N-(4-(trifluoromethoxy)phenyl)-benzamide
The title compound was prepared in an analogous fashion to that described in Stage 1.2 using 4-bromo-3-iodobenzoic acid and 4-(trifluoromethoxy)aniline to afford a white solid. UPLC-MS (condition 1) tR=3.64 min, m/z=485.7 [M+H]+, m/z=483.8 [M−H]−; Br pattern. 1H-NMR (400 MHz, DMSO-d6) δ ppm 7.38 (d, J=8.3 Hz, 2H) 7.82-7.93 (m, 4H) 8.47 (d, J=1.7 Hz, 1H) 10.52 (s, 1H).

reactant | 4-bromo-3-iodobenzoic acid | BrC1=C(C=C(C(=O)O)C=C1)I | C7H4BrIO2
reactant | 4-(trifluoromethoxy)aniline | FC(OC1=CC=C(N)C=C1)(F)F | C7H6F3NO
product | 4-Bromo-3-iodo-N-(4-(trifluoromethoxy)phenyl)-benzamide | BrC1=C(C=C(C(=O)NC2=CC=C(C=C2)OC(F)(F)F)C=C1)I | C14H8BrF3INO2
